US04908357
To a stirred mixture of 58.0 g (0.410 mole) of hexamethylenetetramine in 900 ml of chloroform was added 77.0 g (0.380 mole) of 2-bromo-1-thien-2-ylethanone. The mixture was stirred at room temperature for approximately 18 hours. A precipitate formed and was collected by filtration. The filter cake was washed with methylene chloride and was dried to yield 122.4 g of 1-(2-oxo-2-thien-2-ylethyl)-3,5,7-triaza-1-azoniatricyclo[3,3,1,13,7 ]decane bromide.

reactant | hexamethylenetetramine | 0.410 mole, 58.0 g | C1N2CN3CN1CN(C2)C3 | C6H12N4
reactant | 2-bromo-1-thien-2-ylethanone | 0.380 mole, 77.0 g | BrCC(=O)C=1SC=CC1 | C6H5BrOS
solvent | chloroform | 900 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-(2-oxo-2-thien-2-ylethyl)-3,5,7-triaza-1-azoniatricyclo[3,3,1,13,7 ]decane bromide | 122.4 g | [Br-].O=C(C[N+]12CN3CN(CN(C1)C3)C2)C=2SC=CC2 | InChI=1S/C12H17N4OS.BrH/c17-11(12-2-1-3-18-12)4-16-8-13-5-14(9-16)7-15(6-13)10-16;/h1-3H,4-10H2;1H/q+1;/p-1
